US08377976B2
Step D: N-(3-Chloro-4-fluorophenyl)-N′-hydroxy-5-[2-(methylamino)-1,3-thiazol-4-yl]isoxazole-3-carboximidamide
N-(3-Chloro-4-fluorophenyl)-5-[2-(methylamino)-1,3-thiazol-4-yl]isoxazole-3-carboxamide (22 mg, 0.062 mmol) was suspended in benzene (1.5 mL) and phosphorus pentachloride (33 mg, 0.16 mmol) was added. The mixture was stirred for 3 h at 80° C. and evaporated in vacuo to give a tan solid. Benzene (2.0 mL) was added and the mixture was reevaporated twice. The solid was dissolved in tetrahydrofuran (1.5 mL) and 20 M aqueous hydroxylamine (70 μL, 1.0 mmol) was added and the mixture was stirred for 2 h. The mixture was evaporated in vacuo and triturated with methanol to give a white precipitate which was filtered and washed with methanol to give the desired product (12 mg, 35%). MF=C14H11ClFN5O2S; LCMS calculated for C14H11ClFN5O2S; (M+H)+: m/z=368. 1H NMR (400 MHz, DMSO-d6) δ: 11.20 (s, 1H), 8.75 (s, 1H), 7.82 (m, 1H), 7.32 (s, 1H), 7.20 (m, 1H), 6.92 (m, 1H), 6.65 (m, 1H), 2.82 (m, 3H).

reactant | N-(3-Chloro-4-fluorophenyl)-5-[2-(methylamino)-1,3-thiazol-4-yl]isoxazole-3-carboxamide | 0.062 mmol, 22 mg | ClC=1C=C(C=CC1F)NC(=O)C1=NOC(=C1)C=1N=C(SC1)NC | C14H10ClFN4O2S
reactant | phosphorus pentachloride | 0.16 mmol, 33 mg | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | hydroxylamine | 1.0 mmol, 20 M, 70 μL | NO | H3NO
solvent | benzene | 1.5 mL | C1=CC=CC=C1 | C6H6
solvent | Benzene | 2.0 mL | C1=CC=CC=C1 | C6H6
product | N-(3-Chloro-4-fluorophenyl)-N′-hydroxy-5-[2-(methylamino)-1,3-thiazol-4-yl]isoxazole-3-carboximidamide | 12 mg, 35% | ClC=1C=C(C=CC1F)NC(=NO)C1=NOC(=C1)C=1N=C(SC1)NC | C14H11ClFN5O2S
